US07713979B2
1-[cis-4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one
Combine 2 g (3.6 mmol) of 3-(4-benzyloxy-2,6-dichloro-benzyl)-1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one (Preparation 71) with 150 mg Pd(OH)2 and 25 mL THF. Hydrogenate with a balloon of H2 for 3 hours. Filter the reaction through Celite®, concentrate under vacuum and purify by chromatography using CHCl3/MeOH 98/2 to recover 1.54 g (88%) of the title compound as an oil.

reactant | 3-(4-benzyloxy-2,6-dichloro-benzyl)-1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one | 3.6 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC(=C(CC2C(N(CC2)[C@@H]2CC[C@@H](CC2)O[Si](C)(C)C(C)(C)C)=O)C(=C1)Cl)Cl | C30H41Cl2NO3Si
catalyst | Pd(OH)2 | 150 mg | [OH-].[OH-].[Pd+2]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-[cis-4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O)(C)C | C23H35Cl2NO3Si
